US06051712
In an analogous manner to that described in Example 74 (f), from tert-butyl (3RS,4RS,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-hydroxymethyl-5-(2-morpholin4-yl-ethoxymethyl)-piperidine-1-carboxylate by oxidation with dimethyl sulphoxide/oxalyl chloride in methylene chloride there was obtained tert-butyl (3RS,4SR,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-formyl-5-(2-morpholin-4-yl-ethoxymethyl)-piperidine-1-carboxylate as a yellow oil; MS: 597 (M+H)+.

reactant | tert-butyl (3RS,4RS,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-hydroxymethyl-5-(2-morpholin4-yl-ethoxymethyl)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1COCCN1CCOCC1)C(=O)OC(C)(C)C)CO | C34H50N2O7
reactant | dimethyl sulphoxide oxalyl chloride | CS(=O)C.C(C(=O)Cl)(=O)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tert-butyl (3RS,4SR,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-formyl-5-(2-morpholin-4-yl-ethoxymethyl)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1COCCN1CCOCC1)C(=O)OC(C)(C)C)C=O | C34H48N2O7
